US06756378B2
A mixture of ethyl 3-[N′-(2-bromophenyl)ureido]-2-methoxy-6-pyridylacetate (2.90 g, 7.10 mmol), 0.25 N NaOH (56.8 ml, 14.2 mmol), and THF (50 ml) was stirred for 5 h. The mixture was neutralized with 1 N HCl and the resulting precipitate was collected by filtration. The residue was recrystallized from CHCl3—MeOH-hexane to give 3-[N′-(2-bromophenyl)ureido]-2-methoxy-6-pyridylacetic acid (2.40 g, 89%) as a colorless crystalline powder. mp 195-197 IC; 1H-NMR (DMSO-d6), δ3.59 (s, 2 H), 3.95 (s, 3 H), 6.88 (d, J=8.1 Hz, 1 H), 6.97-7.01 (m, 1 H), 7.33 (t, J=7.3 Hz, 1 H), 7.61 (d, J=8.1 Hz, 1 H), 7.95-7.97 (m, 1 H), 8.29 (d, J=8.1 Hz, 1 H), 8.81 (s, 1 H), 9.10 (s, 1 H), 12.35 (br s, 1 H); Anal. Calcd. for C15H14BrN3O4: C, 47.39; H, 3.71; N, 11.05. Found: C, 47.27; H, 3.59; N, 10.86.

reactant | ethyl 3-[N′-(2-bromophenyl)ureido]-2-methoxy-6-pyridylacetate | 7.10 mmol, 2.90 g | BrC1=C(C=CC=C1)NC(NC=1C(=NC(=CC1)CC(=O)OCC)OC)=O | C17H18BrN3O4
reactant | NaOH | 14.2 mmol, 0.25 N, 56.8 ml | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-[N′-(2-bromophenyl)ureido]-2-methoxy-6-pyridylacetic acid | 2.40 g, 89% | BrC1=C(C=CC=C1)NC(NC=1C(=NC(=CC1)CC(=O)O)OC)=O | C15H14BrN3O4
